US08580762B2
(1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-((methyl(3-(2-(5-(oxetan-3-yl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)cyclopentane-1,2-diol
N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-2,2-dimethyl-6-((methyl(3-(2-(5-(oxetan-3-yl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (115 mg, 0.159 mmol) was dissolved in a mixture of Trifluoroacetic Acid (4.00 ml, 51.9 mmol) and Water (0.40 ml, 22 mmol) which had been pre-cooled at 0° C. in an ice bath. The solution was stirred at 0° C. for 2 h, the reaction mixture was allowed to warm to RT. After 1 the reaction mixture was concentrated in vacuo. The residue was taken up in 6 ml MeOH, concentrated and the process was repeated twice. The resultant residue was placed on high vacuum. The crude residue was diluted with 2 ml MeOH, treated with 140 mg K2CO3 and 10 drops of H2O and allowed to stir at RT until the solution was basic by pH paper. The solution was filtered through a fine frit and the solids washed with MeOH. The filtrate was concentrated to a solid that was placed on high vacuum overnight. The crude material was purified by prep TLC on two 20 cm×20 cm×1.0 mm prep TLC plate, eluting with 14% 7N NH3 in CH3OH/CH2Cl2 to give the product as a colorless glass (37 mg) 1H NMR (400 MHz, MeOD) δH ppm 8.06 (s, 1 H), 7.52 (br. s., 1 H), 7.48 (d, J=8.29 Hz, 1 H), 7.28 (m, 1 H), 7.20 (t, J=3.42 Hz, 1 H), 6.60 (d, J=3.52 Hz, 1 H), 5.12 (m, 2 H), 4.80 (m, 2 H), 4.38 (m, 1 H), 4.32 (m, 1 H), 3.89 (q, J=5.60 Hz, 1 H), 3.04 (m, 1 H), 2.85 (m, 2 H), 2.70 (m, 1 H), 2.52 (m, 1 H), 2.41 (m. 2 H), 2.27 (dd, J=10.99, 6.63 Hz, 2 H), 2.19 (s, 3 H), 2.17 (s, 3 H), 2.14 (m, 1 H), 2.03 (d, J=7.88 Hz, 1 H), 1.91 (m, 3 H), 1.62 (m, 1 H), 1.51 (m, 1 H).

reactant | N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-2,2-dimethyl-6-((methyl(3-(2-(5-(oxetan-3-yl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.159 mmol, 115 mg | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@H]2OC(O[C@H]23)(C)C)CN(C2CC(C2)CCC2=NC3=C(N2)C=CC(=C3)C3COC3)C)C=CC(=C1)OC | C41H51N7O5
reactant | Trifluoroacetic Acid | 51.9 mmol, 4.00 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 22 mmol, 0.40 ml | O | H2O
product | (1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-((methyl(3-(2-(5-(oxetan-3-yl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)cyclopentane-1,2-diol | 37 mg | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(C2CC(C2)CCC2=NC1=C(N2)C=CC(=C1)C1COC1)C)O)O | C29H37N7O3
